US07547690B2
To a stirred cold (0-5° C.) suspension of LAH (205 mg, 5.40 mmol) in an THF (15 ml) a solution of 3-methyl-3,9-diazabicyclo[3.3.1]nonane-2,4-dione (375 mg) in THF (5 ml) was added and the mixture was heated to reflux for 1-2 h. Rxn was cooled in a ice bath and quenched by addition of water (0.2 ml), 15% NaOH (0.6 ml) and water (0.2 ml) and the suspension was vigorously stirred and filtered and dried over Na2SO4. Evaporation of solvents gave light-brown oil which was dissolved in ether and treated with 1N HCl in ether to afford 3-methyl-3,9-diazabicyclo[3.3.1]nonane and isolated as bis-HCl salt. MS: m/e 141 (MH+). 1H NMR (500 MHz, CD3OD): δ ppm 1.34-1.59 (5H, m), 2.02-2.32 (6H, m), 2.57-2.97 (4H, m).

reactant | LAH | 5.40 mmol, 205 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-methyl-3,9-diazabicyclo[3.3.1]nonane-2,4-dione | 375 mg | CN1C(C2CCCC(C1=O)N2)=O | C8H12N2O2
reactant | HCl | 1N | Cl | ClH
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | ether | CCOCC | C4H10O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
product | 3-methyl-3,9-diazabicyclo[3.3.1]nonane | CN1CC2CCCC(C1)N2 | C8H16N2
